US08664238B2
Preparation of N-(2-chloroethyl)-4-methyl piperazine dihydrochloride (VIIg)
10 ml of 25% NaOH and 1 ml (9 mmol) of 4-methyl piperazine were added successively into a reaction flask. The mixture was heated up to 50° C., and 1.8 ml (18 mmol) 1-bromo-2-chloroethane was added dropwise. The mixture was reacted at 50° C. for 6 h, then cooled to room temperature. The reaction solution was extracted with ethyl acetate, and the extraction was washed with saturated saline solution and dried over anhydrous sodium sulfate, then filtered. The filtrate was concentrated to dry in a reduced pressure and a small amount of ethanol/NaOH solution was added dropwise into the residue. The mixture was shaken and placed in a refrigerator for standing, then concentrated to dry in a reduced pressure to obtain 0.43 g white solid with the yield of 23%. m.p. 227-230° C.

reactant | 4-methyl piperazine | 9 mmol, 1 ml | CN1CCNCC1 | C5H12N2
reactant | 1-bromo-2-chloroethane | 18 mmol, 1.8 ml | BrCCCl | C2H4BrCl
solvent | NaOH | 10 ml | [OH-].[Na+]
product | N-(2-chloroethyl)-4-methyl piperazine dihydrochloride | 0.43 g, yield of 23% | Cl.Cl.ClCCN1CCN(CC1)C | InChI=1S/C7H15ClN2.2ClH/c1-9-4-6-10(3-2-8)7-5-9;;/h2-7H2,1H3;2*1H
